US03936457
Methyl α-(9-acridinyl)-α-(p-chlorophenyl)acetate
After a mixture of DMF (250 ml), methyl p-chlorophenylacetate (25.9 g, 140 mmol) and NaH (211 mmol) was stirred at room temperature for 1 hour, 9-chloroacridine (15.0 g, 70.2 mmol) dissolved in 250 ml of DMF was added slowly. The resultant reaction mixture was stirred at room temperature for 18 hours. This reaction mixture was then poured onto 1.5 l. of an ice/H2O mixture and extracted with CHCl3 (500 ml). The CHCl3 extract was washed with H2O (3×500 ml) and dried over MgSO4. Evaporation of the CHCl3 extract gave a crude residual solid which was recrystallized from cyclohexane; yield, 20.2 g (79.4%), mp 192°-193°.

reactant | methyl p-chlorophenylacetate | 140 mmol, 25.9 g | ClC1=CC=C(C=C1)CC(=O)OC | C9H9ClO2
reactant | NaH | 211 mmol | [H-].[Na+]
reactant | 9-chloroacridine | 70.2 mmol, 15.0 g | ClC=1C2=CC=CC=C2N=C2C=CC=CC12 | C13H8ClN
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | Methyl α-(9-acridinyl)-α-(p-chlorophenyl)acetate | C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(C(=O)OC)C1=CC=C(C=C1)Cl | C22H16ClNO2
